US07465736B2
N˜3˜-{4-[(4-tert-butyl-1,3-thiazol-2(3H)-ylidene)(cyano)methyl]pyrimidin-2-yl}-N˜1˜,N˜1˜-dimethyl-beta-alaninamide
To a solution of dimethylamine (0.051 mL, 1 mmol) in DCE was added a solution of TMA 2M in hexane (499 mmol, 1 mmol) and the mixture was stirred 30 min at r.t. To this solution was added a solution of methyl N-{4-[(4-tert-butyl-1,3-thiazol-2(3H)-ylidene)(cyano)methyl]pyrimidin-2-yl}-beta-alaninate (72 mg, 0.2 mmol) in DCE and the mixture was refluxed under inert atmosphere overnight then stirred for a week at r.t. The mixture was diluted with DCM then water was added. The suspension was filtered through celite. The filtrate was washed with aqueous NaHCO3 5% (×2) then brine and it was dried over MgSO4. The solvent was removed under reduced pressure affording the title compound as yellow solid (HPLC max plot 86%).

reactant | dimethylamine | 1 mmol, 0.051 mL | CNC | C2H7N
reactant | hexane | 499 mmol | CCCCCC | C6H14
reactant | methyl N-{4-[(4-tert-butyl-1,3-thiazol-2(3H)-ylidene)(cyano)methyl]pyrimidin-2-yl}-beta-alaninate | 0.2 mmol, 72 mg | C(C)(C)(C)C=1NC(SC1)=C(C1=NC(=NC=C1)NCCC(=O)OC)C#N | C17H21N5O2S
reactant | water | O | H2O
solvent | DCE | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N˜3˜-{4-[(4-tert-butyl-1,3-thiazol-2(3H)-ylidene)(cyano)methyl]pyrimidin-2-yl}-N˜1˜,N˜1˜-dimethyl-beta-alaninamide | 86% | C(C)(C)(C)C=1NC(SC1)=C(C1=NC(=NC=C1)NCCC(=O)N(C)C)C#N | C18H24N6OS
